US04242510
Ethane-1,2-dithiol (20.6 g.) was allowed to react with ethyl 2-chloroacetyl-2-methoxyiminoacetate (41.4 g.) in a similar manner to that of Example A-(i) to give ethyl 2-(2,3-dihydro-1,4-dithiin-6yl)-2-methoxyiminoacetate (syn isomer, 11 g.), white crystals, mp. 65° to 67° C.

reactant | Ethane-1,2-dithiol | 20.6 g | C(CS)S | C2H6S2
reactant | ethyl 2-chloroacetyl-2-methoxyiminoacetate | 41.4 g | ClCC(=O)C(C(=O)OCC)=NOC | C7H10ClNO4
product | ethyl 2-(2,3-dihydro-1,4-dithiin-6yl)-2-methoxyiminoacetate | 11 g | S1CCSC=C1C(C(=O)OCC)=NOC | C9H13NO3S2
